* source AMPLIFICADOR CLASE D
X_U1         ERROR VTRIANG 15V -15V PWM 0 LM311
R_R1         PWM 5V  1k TC=0,0 
V_V1         N14559 N116340  
+PULSE -1.5 1.5 1p 2u 2u 1p 4u
R_R3         0 N16927  1k TC=0,0 
R_R2         N16927 N16939  19k TC=0,0 
X_U2         N16927 N16945 15V -15V N16945 AD817A/AD
X_U3         N112660 N48033 15V -15V ERROR AD817A/AD
R_R20         N48033 N16945  {R_1} TC=0,0 
R_R21         N48033 ERROR  {R_2} TC=0,0 
C_C18         ERROR N48033  {C_1}  TC=0,0 
X_U4         0 N48472 0 N53048 N53052 N53118 N53142 HO LO PWM 5V 5V N49709
+  N48936 VS VEE UCC20520_TRANS
R_R22         0 N48472  5.6k TC=0,0 
C_C19         0 N48472  2.2n  TC=0,0 
V_V8         N48936 VEE 12
V_V6         VCC 0 30
V_V5         5V 0 5
V_V3         15V 0 15
V_V4         0 -15V 15
V_V7         0 VEE 30
C_C21         VS N49709  100n  TC=0,0 
R_R25         N49892 LO  1.2 TC=0,0 
R_R28         N50062 HO  1.2 TC=0,0 
C_C24         0 OUT  330n  TC=0,0 
R_R29         0 OUT  8 TC=0,0 
L_L1         VS OUT  33u  
R_R30         N53048 0  2.2k TC=0,0 
R_R31         N53052 0  2.2k TC=0,0 
R_R33         N53142 0  2.2k TC=0,0 
R_R32         N53118 0  2.2k TC=0,0 
C_C25         VS N49709  1u  TC=0,0 
C_C26         VEE N48936  100n  TC=0,0 
C_C27         VEE N48936  10u  TC=0,0 
C_C28         0 VCC  3300u  TC=0,0 
C_C29         VEE 0  3300u  TC=0,0 
D_D10         VEE VS MURS320T3G 
D_D11         VS VCC MURS320T3G 
D_D12         N49537 N49709 MURS120T3G 
D_D13         N50062 HO MURS120T3G 
D_D14         N49892 LO MURS120T3G 
C_C30         N16927 0  {C_2}  TC=0,0 
X_U5         VS N49892 VEE PHB27NQ10T 
X_U6         VCC N50062 VS PHB27NQ10T 
R_R34         N49537 N48936  1 TC=0,0 
C_C34         VEE N112163  1n  TC=0,0 
C_C35         VS N112121  1n  TC=0,0 
R_R35         N112163 VS  8 TC=0,0 
R_R36         N112121 VCC  8 TC=0,0 
R_R38         0 N112660  {R_2} TC=0,0 
C_C36         N112660 0  {C_1}  TC=0,0 
R_R37         N112660 N112667  {R_1} TC=0,0 
V_V10         N116340 0 7.5
R_R39         0 VTRIANG  100 TC=0,0 
C_C37         N14559 VTRIANG  10u  TC=0,0 
X_U7         VS N16939 Sw_tClose PARAMS: tClose=0 ttran=200u
+  Rclosed=0.0000000001 Ropen=0.999999E10
V_V11         N112667 0  
+SIN 0 1 1k 0 0 0
.NODESET         V([OUT ])=0
.PARAM  c_1=2.2n r_paralela_diodo=500meg c_2=2.2n r_paralela_mosfet=500meg
+  r_1=1k r_2=100k
